US06069157
4-Acetyl-5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To a solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-ethynylpyrazole (0.345 g) in acetonitrile (5 ml) was added p-toluenesulphonic acid (0.5 g) and the mixture was stirred at room temperature for 2 hours and then poured into water (100 ml) and ether (100 ml). The organic layer was separated, washed with saturated aqueous sodium hydrogen carbonate solution (50 ml), brine (50 ml), dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel (40 g) eluted with dichloromethane:hexane (10:1). Combination and evaporation of suitable fractions gave the title compound as a white crystalline solid, m.p. 200-1° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-ethynylpyrazole | 0.345 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#C | C13H5Cl2F3N4
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 100 ml | O | H2O
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-Acetyl-5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | C(C)(=O)C=1C(=NN(C1N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C13H7Cl2F3N4O
